US04273773
A mixture of 2-carboxy-4-nitrophenylacetic acid (described by H. E. Ungnade et al., J. Org. Chem., 10, 533 (1945), 50 g, 0.22 mol) and 5% palladium on carbon (5 g) is rapidly stirred under an atmosphere of hydrogen until the nitro group is reduced. Water (300 ml) is added and the mixture is warmed to dissolve the precipitate. The mixture is filtered through diatomaceous earth. The filtrate is evaporated and 375 ml of 2 N hydrobromic acid is added. The resulting solution is cooled in an ice-bath to 0°-5° C. Sodium nitrite (15.2 g, 0.22 mol) in 50 ml of water is added while stirring. The latter solution is added slowly to a cold (0°-5° C.) stirring freshly prepared solution of cuprous bromide (150 g, 0.105 mol) in 230 ml of 49% hydrobromic acid. The reaction is stirred at room temperature for 2 hr and the precipitate is collected by filtration. The precipitate is washed with water and dried to obtain 4-bromo-2-carboxyphenylacetic acid (53 g), mp 210°-213° C.

reactant | 2-carboxy-4-nitrophenylacetic acid | 0.22 mol, 50 g | C(=O)(O)C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C9H7NO6
reactant | Sodium nitrite | 0.22 mol, 15.2 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 230 ml | Br | BrH
catalyst | palladium on carbon | 5 g | [Pd] | Pd
solvent | water | 50 ml | O | H2O
solvent | Water | 300 ml | O | H2O
product | 4-bromo-2-carboxyphenylacetic acid | 53 g | BrC1=CC(=C(C=C1)CC(=O)O)C(=O)O | C9H7BrO4
